US04429155
The procedure described in Example 27 is followed, using a catalyst which contains 1.0% by weight of palladium on a cobalt/aluminum spinel and starting from 2,6-diethylcyclohexylamine. 2,6-Diethylaniline (boiling point=243° C.) is obtained in a yield of 96% of the theory.

reactant | 2,6-diethylcyclohexylamine | C(C)C1C(C(CCC1)CC)N | C10H21N
catalyst | palladium | [Pd] | Pd
product | 2,6-Diethylaniline | yield of 96% | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
